US07683060B2
Step 2. 1-(6-Chloropyridin-3-yl)cyclopropanecarboxylic acid
To a stirred mixture of (6-chloropyridin-3-yl)acetonitrile (2.00 g, 0.0131 mol), benzyltriethylammonium chloride (0.2 g, 0.0008 mol), and 1-bromo-2-chloroethane (3.26 mL, 0.0393 mol), was added sodium hydroxide aqueous solution (50%, 3 mL, 0.08 mol) drop-wise at 50° C. The mixture was stirred at 50° C. for 5 h. 1,2-ethanediol (4 mL) was added to the above mixture and stirred at 100° C. overnight. The aqueous layer was acidified to pH ˜1, and extracted with ethyl acetate. The organic layer was washed with water and brine, dried with sodium sulfate, filtered, and concentrated to afford the desired compound (2.2 g, 85%). Analytical LCMS: (M+H)+=198.0.

reactant | (6-chloropyridin-3-yl)acetonitrile | 0.0131 mol, 2.00 g | ClC1=CC=C(C=N1)CC#N | C7H5ClN2
reactant | 1-bromo-2-chloroethane | 0.0393 mol, 3.26 mL | BrCCCl | C2H4BrCl
reactant | sodium hydroxide | 0.08 mol, 3 mL | [OH-].[Na+]
reactant | 1,2-ethanediol | 4 mL | C(CO)O | C2H6O2
catalyst | benzyltriethylammonium chloride | 0.0008 mol, 0.2 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1-(6-Chloropyridin-3-yl)cyclopropanecarboxylic acid | 2.2 g, 85% | ClC1=CC=C(C=N1)C1(CC1)C(=O)O | C9H8ClNO2
